### PR TITLE
[Merged by Bors] - feat(ModelTheory/Definablity): add `DefinableFun` definition and lemmas

### PR DESCRIPTION
**Pull request by NoneMore**
This PR adds two basic shapes of definable sets and `DefinableFun` definition with relevant lemmas.
The main result is `Set.Definable.preimage_map`  asserting that the preimage of a definable set under a definable map is definable.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/Definability.lean [hunk 1]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+/-- A function from tuples of elements of `M` to `M` is definable if its graph is definable. -/
+def DefinableFun (f : (α → M) → M) : Prop :=
+  A.Definable L { v : (α ⊕ Unit) → M | f (v ∘ Sum.inl) = v (Sum.inr ()) }
+
+variable {L A}
+
+namespace DefinableFun
+
+/-- A function symbol is a definable function. -/
+theorem definable_fun_of_fun_symbol {n : ℕ} (f : L.Functions n) :
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
theorem definableFun_of_fun_symbol {n : ℕ} (f : L.Functions n) :
```
The [naming convention](https://leanprover-community.github.io/contribute/naming.html) is to use lower camel case when refer to a definition in theorems.

Another suggestion: why not name them under `DefinableFun` namespace? E.g. `DefinableFun.fun_symbol`

File: Mathlib/ModelTheory/Definability.lean [hunk 2]
```diff
@@ -271,6 +281,18 @@ def Definable₁ (s : Set M) : Prop :=
 def Definable₂ (s : Set (M × M)) : Prop :=
   A.Definable L { x : Fin 2 → M | (x 0, x 1) ∈ s }
 
+/-- A singleton is definable by parameter as itself. -/
+theorem Definable.singleton (a : M) :
+    ({a} : Set M).Definable₁ L {a} := by
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean:307]: Can you prove
```suggestion
    A.Definable₁ L {a} := by
```
with hypothesis `a ∈ A`?

File: Mathlib/ModelTheory/Definability.lean [hunk 3]
```diff
@@ -271,6 +281,18 @@ def Definable₁ (s : Set M) : Prop :=
...
+  simp only [Definable₁, Definable]
+  exists (Term.var 0).equal (L.con (⟨a, rfl⟩ : ↑({a} : Set M))).term
+
+/-- The 2-dimensional diagonal is ∅-definable. -/
+theorem Definable.diagonal :
+    (∅ : Set M).Definable₂ L {(x,y) : M × M | x = y} := by
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Can you prove it in general?
```suggestion
    A.Definable₂ L {(x,y) : M × M | x = y} := by
```

File: Mathlib/ModelTheory/Definability.lean [hunk 4]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+section
+
+open FirstOrder FirstOrder.Language Set
+
+variable {M : Type w} (L : Language) [L.Structure M]
+variable {α β : Type*} (A : Set M)
+
+/-- A function from tuples of elements of `M` to `M` is definable if its graph is definable. -/
+def DefinableFun (f : (α → M) → M) : Prop :=
+  A.Definable L { v : (α ⊕ Unit) → M | f (v ∘ Sum.inl) = v (Sum.inr ()) }
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  A.Definable L { v : Option α → M | f (v ∘ Sum.inl) = v (Sum.inr ()) }
```
As @fpvandoorn points in #26332, `Option α` is more canonical when adding one element to `α`. Could you explain whether there is a preference of `α ⊕ Unit` than `Option α`?

File: Mathlib/ModelTheory/Definability.lean [hunk 5]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+
+variable {L A}
+
+namespace DefinableFun
+
+/-- A function symbol is a definable function. -/
+theorem definable_fun_of_fun_symbol {n : ℕ} (f : L.Functions n) :
+    DefinableFun L (∅ : Set M) (fun x : Fin n → M => Structure.funMap f x) := by
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Also, I would suggest to prove these theorems as general as possible.
```suggestion
    DefinableFun L A (fun x : Fin n → M => Structure.funMap f x) := by
```

File: Mathlib/ModelTheory/Definability.lean [hunk 6]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+  let F : (α → M) → Fin 2 → M := fun v => ![f v, a]
+  have hF : DefinableMap L A F := by
+    intro i
+    fin_cases i
+    · exact hf
+    · simp only [F]
+      exact Definable.mono (definable_fun_of_const_fun L α (a : M)) (by grind)
+  have hDiag : A.Definable L { v : Fin 2 → M | v 0 = v 1 } :=
+    Set.Definable.mono (Set.Definable.diagonal L) (empty_subset A)
+  convert definable_preimage_of_definableMap hF hDiag
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Can these be golfed by `definable_equalizer` and `definable_fun_of_const_fun`?

File: Mathlib/ModelTheory/Definability.lean [hunk 7]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+  let t_out : L.Term (α ⊕ Unit) := Term.var (Sum.inr ())
+  let φ := t_lifted.equal t_out
+  exists φ
+  ext v
+  simp [φ, t_lifted, t_out]
+
+variable (L A)
+
+/-- A constant function is a definable function. -/
+theorem definable_fun_of_const_fun (γ : Type*) (a : M) :
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: I would suggest to name it as
```suggestion
theorem DefinableFun.const (γ : Type*) (a : M) :
```

File: Mathlib/ModelTheory/Definability.lean [hunk 8]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+  exact comm
+
+/-- A family of functions is definable when each coordinate is definable. -/
+def DefinableMap (F : (α → M) → (β → M)) : Prop :=
+  ∀ i : β, DefinableFun L A fun x => F x i
+
+variable {L A}
+
+/-- The preimage of a definable set under a definable map is definable. -/
+lemma definable_preimage_of_definableMap
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: I would also suggest to name it as
```suggestion
lemma Definable.preimage
```

File: Mathlib/ModelTheory/Definability.lean [hunk 9]
```diff
@@ -386,6 +408,123 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+    {α β : Type*} [Finite β] {F : (α → M) → (β → M)} (hF : DefinableMap L A F)
+    {S : Set (β → M)} (hS : A.Definable L S) :
+    A.Definable L { v : α → M | F v ∈ S } := by
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: To reflect the `preimage` in the name
```suggestion
    A.Definable L (F ⁻¹' S) := by
```

File: Mathlib/ModelTheory/Definability.lean [hunk 10]
```diff
@@ -261,6 +262,15 @@ theorem Definable.image_comp {s : Set (β → M)} (h : A.Definable L s) (f : α
       · rw [Function.comp_apply, Function.comp_apply, apply_rangeSplitting f,
           rangeFactorization_coe]
 
+/-- Finite existential quantifiers preserve definablity. -/
+lemma Definable.exists_fintype [Finite β] {S : Set ((α ⊕ β) → M)}
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: `exists_fintype` would sound like `∃ (β : Type), Fintype β`. Since we won't have a version without `Finite β`, you can just name it as `Definable.exists`.

<del>Or another suggestion is `Definable.proj` to align with [`IsSemilinearSet.proj`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Defs.html#IsSemilinearSet.proj)</del> not a good suggestion since we may want a `forall` version also

**Review by staroperator — COMMENTED** [review]
Thanks, these are very useful definitions in model theory. Here are my first batch of comments.

File: Mathlib/ModelTheory/Definability.lean (hunk 10 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: I think `exists_of_finitype` would be be better. `Definable.exists` may be more suitable for a version introducing only one ex. quantifier, like `Definable.inter`.

File: Mathlib/ModelTheory/Definability.lean (hunk 2 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean:307]: I prefer it being wrapped by adding a `singleton_of_mem`.

File: Mathlib/ModelTheory/Definability.lean (hunk 3 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: I'm not sure if it is necessary, since `Definable.mono` and `Set.empty_subset` seem not to introduce much complexiety. However, since ∅-definable sets are preserved under all automorphisms, it would be better if we keep the original one.

File: Mathlib/ModelTheory/Definability.lean (hunk 4 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: It's not hard to do such modification. However, after some searching, I found there's no such use of `Option` in `ModelTheory` module. It seems that no index type in the module is constructed by adding only one element. Meanwhile, the sum type is used more often as the index type, especially in the submodules `Syntax` and `Sementics`. Beside, the constructors of `Sum` actually implies the positional relation of types, which matters. So I suggest to keep the original definition for unification and intuition of position of the new variable.

File: Mathlib/ModelTheory/Definability.lean (hunk 5 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: Maybe a `DefinableFun` version of `Definable.mono` is sufficient here. Such shift of parameter set will always lose some information and users are expected to do it explicitly when needed.

File: Mathlib/ModelTheory/Definability.lean (hunk 8 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: It sounds too general for me. And the namespace should be `DefinableFun`, otherwise it may be confused with `Definable.preimage_comp` in the IntelliSense.

File: Mathlib/ModelTheory/Definability.lean (hunk 3 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: That's right. Though, one can always use `A.Definable` to prove `(∅ : Set M).Definable` where `A = ∅` is resolved automatically, but to use `(∅ : Set M).Definable` to prove `A.Definable` one needs to manually invoke `Definable.mono` and `Set.empty_subset`, which puts more burden on the user.

Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: > However, since ∅-definable sets are preserved under all automorphisms, it would be better if we keep the original one.

I think that's orthogonal with the signature of `Definable.diagonal`. Or could you please give some examples?

File: Mathlib/ModelTheory/Definability.lean (hunk 4 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: These use of `Sum` are when the second type is general (a variable or `Fin n`), but `α ⊕ Unit` is different. Though I agree with you on the matter of positional relation.

File: Mathlib/ModelTheory/Definability.lean (hunk 8 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: The namespace should follow the return type, so that when you have a goal of `A.Definable L (F ⁻¹' S)`, you can write `.preimage hF hS`. It doesn't matter to confuse with `Definable.preimage_comp` as long as the difference in their names are reflected in their return types.

File: Mathlib/ModelTheory/Definability.lean (hunk 10 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: > I think `exists_of_finitype` would be be better. `Definable.exists` may be more suitable for a version introducing only one ex. quantifier, like `Definable.inter`.

Well, `exists_of_finite` because it's actually a `Finite β`

File: Mathlib/ModelTheory/Definability.lean [hunk 11]
```diff
@@ -386,6 +413,116 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+theorem const (γ : Type*) (a : M) :
+    DefinableFun L ({a} : Set M) (fun _ : γ → M => a) := by
+  simp only [DefinableFun]
+  convert Definable.preimage_comp (fun _ : Fin 1 => Sum.inr ()) (Definable.singleton L a) using 1
+  simp only [Fin.isValue, mem_singleton_iff, preimage_setOf_eq, Function.comp_apply]
+  ext v
+  exact comm
+
+/-- A family of functions is definable when each coordinate is definable. -/
+def DefinableMap (F : (α → M) → (β → M)) : Prop :=
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: This is currently under `DefinableFun` namespace

File: Mathlib/ModelTheory/Definability.lean [hunk 12]
```diff
@@ -386,6 +413,116 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+    intro i
+    fin_cases i
+    · exact hf
+    · exact hg
+  have hDiag : A.Definable L { v : Fin 2 → M | v 0 = v 1 } :=
+    Set.Definable.mono (Set.Definable.diagonal L) (empty_subset A)
+  convert definable_preimage_of_definableMap hF hDiag
+
+/-- The fiber of a definable function is definable. -/
+lemma fiber {f : (α → M) → M} (hf : DefinableFun L A f) (a : A) :
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
lemma fiber {f : (α → M) → M} (hf : DefinableFun L A f) {a} (ha : a ∈ A) :
```
This version should be more general

File: Mathlib/ModelTheory/Definability.lean [hunk 13]
```diff
@@ -271,6 +281,23 @@ def Definable₁ (s : Set M) : Prop :=
 def Definable₂ (s : Set (M × M)) : Prop :=
   A.Definable L { x : Fin 2 → M | (x 0, x 1) ∈ s }
 
+/-- A singleton is definable by parameter as itself. -/
+theorem Definable.singleton (a : M) :
+    ({a} : Set M).Definable₁ L {a} := by
+  simp only [Definable₁, Definable]
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
```
golf

File: Mathlib/ModelTheory/Definability.lean [hunk 14]
```diff
@@ -271,6 +281,23 @@ def Definable₁ (s : Set M) : Prop :=
...
+
+/-- A singleton `{a}` is definable over any set `A` that contains `a`. -/
+theorem Definable.singleton_of_mem {a : M} {A : Set M} (h : a ∈ A) :
+    A.Definable₁ L {a}  :=
+  (Definable.singleton L a).mono (Set.singleton_subset_iff.mpr h)
+
+/-- The 2-dimensional diagonal is ∅-definable. -/
+theorem Definable.diagonal :
+    (∅ : Set M).Definable₂ L {(x,y) : M × M | x = y} := by
+  simp only [Definable₂]
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
```
golf

File: Mathlib/ModelTheory/Definability.lean [hunk 15]
```diff
@@ -271,6 +281,23 @@ def Definable₁ (s : Set M) : Prop :=
...
 
+/-- A singleton is definable by parameter as itself. -/
+theorem Definable.singleton (a : M) :
+    ({a} : Set M).Definable₁ L {a} := by
+  simp only [Definable₁, Definable]
+  exists (Term.var 0).equal (L.con (⟨a, rfl⟩ : ↑({a} : Set M))).term
+
+/-- A singleton `{a}` is definable over any set `A` that contains `a`. -/
+theorem Definable.singleton_of_mem {a : M} {A : Set M} (h : a ∈ A) :
+    A.Definable₁ L {a}  :=
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
    A.Definable₁ L {a} :=
```

File: Mathlib/ModelTheory/Definability.lean (hunk 5 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: > Maybe a `DefinableFun` version of `Definable.mono` is sufficient here.

Indeed! Please add `DefinableFun.mono`. And also `empty_definableFun_iff`.

File: Mathlib/ModelTheory/Definability.lean [hunk 16]
```diff
@@ -386,6 +413,116 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+namespace DefinableFun
+
+/-- A function symbol is a definable function. -/
+theorem fun_symbol {n : ℕ} (f : L.Functions n) :
+    DefinableFun L (∅ : Set M) (fun x : Fin n → M => Structure.funMap f x) := by
+  refine empty_definable_iff.mpr ?_
+  let t_out : L.Term (Fin n ⊕ Unit) := Term.var (Sum.inr ())
+  let t_in : Fin n → L.Term (Fin n ⊕ Unit) := fun i => Term.var (Sum.inl i)
+  let φ := (Term.func f t_in).equal t_out
+  exists φ
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  exists (Term.func f (Term.var ∘ Sum.inl)).equal (Term.var (Sum.inr ()))
```
golf

File: Mathlib/ModelTheory/Definability.lean [hunk 17]
```diff
@@ -386,6 +413,116 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+/-- A term is a definable function. -/
+theorem term (t : L.Term α) :
+    DefinableFun L (∅ : Set M) (fun v => t.realize v) := by
+  refine empty_definable_iff.mpr ?_
+  let t_lifted : L.Term (α ⊕ Unit) := t.relabel Sum.inl
+  let t_out : L.Term (α ⊕ Unit) := Term.var (Sum.inr ())
+  let φ := t_lifted.equal t_out
+  exists φ
+  ext v
+  simp [φ, t_lifted, t_out]
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  exists (t.relabel Sum.inl).equal (Term.var (Sum.inr ()))
  ext v
  simp
```

File: Mathlib/ModelTheory/Definability.lean [hunk 18]
```diff
@@ -386,6 +413,116 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+  ext v
+  simp only [mem_setOf_eq, Sum.elim_comp_inl, Sum.elim_inr, Sum.elim_comp_inr]
+  constructor
+  · intro h
+    use (F v)
+    grind
+  · rintro ⟨u,hFv,hu⟩
+    have : F v = u := by exact (eqOn_univ (F v) u).mp fun ⦃x⦄ a ↦ hFv x
+    subst this
+    exact hu
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  have h_graph : A.Definable L { w : α ⊕ β → M | ∀ i, F (w ∘ Sum.inl) i = w (Sum.inr i) } := by
    rw [setOf_forall]
    exact definable_iInter fun i => (hF i).preimage_comp (Sum.map id fun _ => i)
  have h_cyl : A.Definable L { w : α ⊕ β → M | w ∘ Sum.inr ∈ S } :=
    hS.preimage_comp Sum.inr
  convert Definable.exists_of_fintype (Definable.inter h_graph h_cyl) using 1
  ext v
  simp [← funext_iff]
```
golf with adding this lemma above
```lean4
theorem definable_iInter {ι : Type*} [Finite ι] {f : ι → Set (α → M)}
    (hf : ∀ i, A.Definable L (f i)) : A.Definable L (⋂ i, f i) := by
  haveI := Fintype.ofFinite ι
  convert definable_finset_inf hf Finset.univ using 1
  simp
```

File: Mathlib/ModelTheory/Definability.lean (hunk 5 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: The statement of `empty_definableFun_iff` is quite complex since the corresponding graph set is not standardly defined by `Function.graph` so maybe we need to create a definition `DefinableFun.graph` first. Moreover, we could prove the equivalence of two definitions of grpah, even though I'm not sure if this is necessary.

File: Mathlib/ModelTheory/Definability.lean (hunk 8 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: `Definable.preimage_map` seems a good medium. However, it's looks really weird to shift to `Definable` namespace in from `DefinableFun` namespace.

File: Mathlib/ModelTheory/Definability.lean (hunk 3 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: I think there's indeed few examples where the ∅-definablity of the diagonal matters. So I decide to make the change.

Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: However, this is still a trade-off between precision and usability. So I suggest we leave this thread open for the maintainer to decide.

File: Mathlib/ModelTheory/Definability.lean (hunk 5 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: Sounds that this definition should not be under `DefinableFun` namespace, since it does not involve `DefinableFun`. Maybe you can wait #26332 to add the `Function.tupleGraph`? Or name it as you like.

Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: My idea is that your `empty_definableFun_iff` should replace `refine empty_definable_iff.mpr ?_` to get better readability.

File: Mathlib/ModelTheory/Definability.lean [hunk 19]
```diff
@@ -386,6 +423,103 @@ noncomputable instance instBooleanAlgebra : BooleanAlgebra (L.DefinableSet A α)
...
+    rw [setOf_forall]
+    exact definable_iInter_of_finite fun i => (hF i).preimage_comp (Sum.map id fun _ => i)
+  have h_cyl : A.Definable L { w : α ⊕ β → M | w ∘ Sum.inr ∈ S } :=
+    hS.preimage_comp Sum.inr
+  convert Definable.exists_of_finite (Definable.inter h_graph h_cyl) using 1
+  ext v
+  simp [← funext_iff]
+
+/-- The equalizer of two definable functions is a definable. -/
+lemma equalizer {f g : (α → M) → M}
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: The terms `equalizer` and `fiber` have not been used for `Set` yet. Could you follow [`Measurable.eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Constructions.html#Measurable.eq) and [`Measurable.eq_const`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Constructions.html#Measurable.eq_const) to name them as `Definable.setOf_eq` and `Definable.setOf_eq_const` (and add a `const_eq` also)?

File: Mathlib/ModelTheory/Definability.lean [hunk 20]
```diff
@@ -271,6 +293,21 @@ def Definable₁ (s : Set M) : Prop :=
...
+  exists (Term.var 0).equal (L.con (⟨a, rfl⟩ : ↑({a} : Set M))).term
+
+/-- A singleton `{a}` is definable over any set `A` that contains `a`. -/
+theorem Definable.singleton_of_mem {a : M} {A : Set M} (h : a ∈ A) :
+    A.Definable₁ L {a} :=
+  (Definable.singleton L a).mono (Set.singleton_subset_iff.mpr h)
+
+/-- The 2-dimensional diagonal is definable independent from parameters. -/
+theorem Definable.diagonal (A : Set M) :
+    A.Definable₂ L {(x,y) : M × M | x = y} := by
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Since [`Set.diagonal`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Operations.html#Set.diagonal) is defined, how about
```suggestion
    A.Definable₂ L (diagonal M) := by
```

File: Mathlib/ModelTheory/Definability.lean (hunk 19 above)
Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: I'm not sure why these lemmas should be in the `Set.Definable` namespace. I presume `Set.Definable.mono` and others are placed there to enable dot notation. Following that pattern, shouldn't these lemmas be in `Function.DefinableFun`?

Comment (staroperator) [reply Mathlib/ModelTheory/Definability.lean]: Good question. Both `DefinableFun` and `Definable` give you dot notation (the difference is `hf.setOf_eq hg` and `.setOf_eq hf hg`). I'm not sure what's the convention for this case and I'd like to leave that to a maintainer.

File: Mathlib/ModelTheory/Definability.lean [hunk 21]
```diff
@@ -389,3 +426,107 @@ end DefinableSet
...
+
+theorem empty_definableFun_iff {f : (α → M) → M} :
+    DefinableFun L (∅ : Set M) f ↔
+    ∃ φ : L.Formula (α ⊕ Unit), tupleGraph f = setOf φ.Realize := by
+  simp [DefinableFun, Set.empty_definable_iff]
+
+/-- A function symbol is a definable function. -/
+theorem DefinableFun.fun_symbol {n : ℕ} (f : L.Functions n) :
+    DefinableFun L (∅ : Set M) (fun x : Fin n → M => Structure.funMap f x) := by
+  refine empty_definableFun_iff.mpr ?_
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  rw [empty_definableFun_iff]
```
for readability

File: Mathlib/ModelTheory/Definability.lean [hunk 22]
```diff
@@ -389,3 +426,107 @@ end DefinableSet
...
+  exists (Term.func f (Term.var ∘ Sum.inl)).equal (Term.var (Sum.inr ()))
+
+/-- A term is a definable function. -/
+theorem DefinableFun.term (t : L.Term α) :
+    DefinableFun L (∅ : Set M) (fun v => t.realize v) := by
+  refine empty_definableFun_iff.mpr ?_
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  rw [empty_definableFun_iff]
```

File: Mathlib/ModelTheory/Definability.lean [hunk 23]
```diff
@@ -389,3 +426,107 @@ end DefinableSet
...
+lemma DefinableFun.setOf_eq {f g : (α → M) → M}
+    (hf : DefinableFun L A f) (hg : DefinableFun L A g) :
+    A.Definable L {v : α → M | f v = g v} := by
+  let F : (α → M) → Fin 2 → M := fun v => ![f v, g v]
+  have hF : DefinableMap L A F := by
+    intro i
+    fin_cases i
+    · exact hf
+    · exact hg
+  convert (Definable.diagonal L A).preimage_map hF
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  exact (Definable.diagonal L A).preimage_map hF
```

File: Mathlib/ModelTheory/Definability.lean [hunk 24]
```diff
@@ -389,3 +426,107 @@ end DefinableSet
...
+
+/-- The fiber of a definable function is definable. -/
+lemma DefinableFun.setOf_eq_const {f : (α → M) → M} (hf : DefinableFun L A f)
+    {a : M} (ha : a ∈ A) :
+    A.Definable L {v : α → M | f v = a} := by
+  refine hf.setOf_eq ?_
+  exact Definable.mono (L.definableFun_of_const α (a : M)) (singleton_subset_iff.mpr ha)
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: This suggests `definableFun_of_const` should take `a ∈ A` and prove `DefinableFun L A fun _ => a`. Then you can prove this by one line
```suggestion
    A.Definable L {v : α → M | f v = a} :=
  exact hf.setOf_eq (L.definableFun_of_const α ha)
```

File: Mathlib/ModelTheory/Definability.lean [hunk 25]
```diff
@@ -389,3 +426,107 @@ end DefinableSet
...
+  simp [DefinableFun, Set.empty_definable_iff]
+
+/-- A function symbol is a definable function. -/
+theorem DefinableFun.fun_symbol {n : ℕ} (f : L.Functions n) :
+    DefinableFun L (∅ : Set M) (fun x : Fin n → M => Structure.funMap f x) := by
+  refine empty_definableFun_iff.mpr ?_
+  exists (Term.func f (Term.var ∘ Sum.inl)).equal (Term.var (Sum.inr ()))
+
+/-- A term is a definable function. -/
+theorem DefinableFun.term (t : L.Term α) :
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Maybe `DefinableFun.termRealize` is a more precise name

Comment (NoneMore) [reply Mathlib/ModelTheory/Definability.lean]: Done. Move to the `Language.Term` namespace for dot notation.

File: Mathlib/ModelTheory/Definability.lean [hunk 26]
```diff
@@ -389,3 +426,105 @@ end DefinableSet
...
+
+variable {M : Type w} (L : Language) [L.Structure M]
+variable {α β : Type*} (A : Set M)
+
+namespace Function
+
+/-- The sum type style of `Function.graph`. -/
+@[simp]
+def tupleGraph (f : (α → M) → M) : Set ((α ⊕ Unit) → M) :=
+  { v : (α ⊕ Unit) → M | f (v ∘ Sum.inl) = v (Sum.inr ()) }
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: It might be better to move this to `Data/Rel` like in #26332. I'd like to let the maintainer decide on this.

File: Mathlib/ModelTheory/Definability.lean [hunk 27]
```diff
@@ -389,3 +426,105 @@ end DefinableSet
...
+  have h_graph : A.Definable L { w : α ⊕ β → M | ∀ i, F (w ∘ Sum.inl) i = w (Sum.inr i) } := by
+    rw [setOf_forall]
+    exact definable_iInter_of_finite fun i => (hF i).preimage_comp (Sum.map id fun _ => i)
+  have h_cyl : A.Definable L { w : α ⊕ β → M | w ∘ Sum.inr ∈ S } :=
+    hS.preimage_comp Sum.inr
+  convert Definable.exists_of_finite (Definable.inter h_graph h_cyl) using 1
+  ext v
+  simp [← funext_iff]
+
+/-- The equalizer of two definable functions is a definable. -/
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Could you also explain "equalizer" and "fiber" in the docstring?

File: Mathlib/ModelTheory/Definability.lean [hunk 28]
```diff
@@ -389,3 +426,105 @@ end DefinableSet
...
+  have hF : DefinableMap L A F := by
+    intro i
+    fin_cases i
+    · exact hf
+    · exact hg
+  exact (Definable.diagonal L A).preimage_map hF
+
+/-- The fiber of a definable function is definable. -/
+lemma DefinableFun.setOf_eq_const {f : (α → M) → M} (hf : DefinableFun L A f)
+    {a : M} (ha : a ∈ A) :
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
lemma DefinableFun.setOf_eq_const {f : (α → M) → M} (hf : DefinableFun L A f) {a : M} (ha : a ∈ A) :
```

File: Mathlib/ModelTheory/Definability.lean [hunk 29]
```diff
@@ -389,3 +426,105 @@ end DefinableSet
...
+    A.Definable L {v : α → M | f v = a} :=
+  hf.setOf_eq (L.definableFun_of_const α ha)
+
+lemma DefinableFun.setOf_const_eq {f : (α → M) → M} (hf : DefinableFun L A f)
+    {a : M} (ha : a ∈ A) :
+    A.Definable L {v : α → M | a = f v} :=
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
lemma DefinableFun.setOf_const_eq {f : (α → M) → M} (hf : DefinableFun L A f) {a : M} (ha : a ∈ A) :
    A.Definable L {v : α → M | a = f v} :=
```

File: Mathlib/ModelTheory/Definability.lean [hunk 30]
```diff
@@ -389,3 +426,105 @@ end DefinableSet
...
+  simp [DefinableFun, Set.empty_definable_iff]
+
+/-- A function symbol is a definable function. -/
+theorem DefinableFun.fun_symbol {n : ℕ} (f : L.Functions n) :
+    DefinableFun L (∅ : Set M) (fun x : Fin n → M => Structure.funMap f x) := by
+  rw [empty_definableFun_iff]
+  exists (Term.func f (Term.var ∘ Sum.inl)).equal (Term.var (Sum.inr ()))
+
+/-- A term is a definable function. -/
+theorem _root_.Language.Term.realize_definableFun (t : L.Term α) :
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
theorem _root_.Language.Term.definableFun_realize (t : L.Term α) :
```
following naming convention

File: Mathlib/ModelTheory/Definability.lean [hunk 31]
```diff
@@ -389,3 +426,105 @@ end DefinableSet
...
+    DefinableFun L (∅ : Set M) (fun v => t.realize v) := by
+  rw [empty_definableFun_iff]
+  exists (t.relabel Sum.inl).equal (Term.var (Sum.inr ()))
+  ext v
+  simp
+
+variable (L A)
+
+/-- A constant function is a definable function. -/
+theorem _root_.FirstOrder.Language.definableFun_of_const {A : Set M} {a : M}
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: `const` is not a property of function but the function itself, so I would suggest to name it as
```suggestion
theorem _root_.FirstOrder.Language.definableFun_const {A : Set M} {a : M}
```

An example of `of_const` is [`continuous_of_const`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Continuous.html#continuous_of_const) which takes a proof that the function is indeed constant.

File: Mathlib/ModelTheory/Definability.lean [hunk 32]
```diff
@@ -261,6 +274,15 @@ theorem Definable.image_comp {s : Set (β → M)} (h : A.Definable L s) (f : α
       · rw [Function.comp_apply, Function.comp_apply, apply_rangeSplitting f,
           rangeFactorization_coe]
 
+/-- Finite existential quantifiers preserve definablity. -/
+lemma Definable.exists_of_finite [Finite β] {S : Set ((α ⊕ β) → M)}
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean:278]: Can you add a `forall` version also?

**Review by staroperator — APPROVED** [review]

File: Mathlib/ModelTheory/Definability.lean [hunk 33]
```diff
@@ -394,6 +440,107 @@ end Language
...
+
+variable (L)
+
+/-- A coordinate projection is a definable function. -/
+theorem _root_.FirstOrder.Language.definableFun_var (i : α) :
+    DefinableFun L (∅ : Set M) (fun v => v i) :=
+  (Term.var i).definableFun_realize
+
+/-- A constant function is a definable function. -/
+theorem _root_.FirstOrder.Language.definableFun_const {A : Set M} {a : M}
```
Comment (awainverse) [inline Mathlib/ModelTheory/Definability.lean]: This is `TermDefinable` also.

File: Mathlib/ModelTheory/Definability.lean [hunk 34]
```diff
@@ -394,6 +440,107 @@ end Language
...
+/-- A term is a definable function. -/
+theorem _root_.FirstOrder.Language.Term.definableFun_realize (t : L.Term α) :
+    DefinableFun L (∅ : Set M) (fun v => t.realize v) := by
+  rw [empty_definableFun_iff]
+  refine ⟨(t.relabel some).equal (Term.var none), ?_⟩
+  ext v
+  simp [Function.tupleGraph]
+
+/-- A function symbol is a definable function. -/
+theorem DefinableFun.fun_symbol {n : ℕ} (f : L.Functions n) :
```
Comment (awainverse) [inline Mathlib/ModelTheory/Definability.lean]: This is `TermDefinable` also.

File: Mathlib/ModelTheory/Definability.lean [hunk 35]
```diff
@@ -391,6 +437,107 @@ end Language
...
+
+variable {L A} {f : (α → M) → M}
+
+theorem DefinableFun.mono {B : Set M} (hAs : DefinableFun L A f) (hAB : A ⊆ B) :
+    DefinableFun L B f :=
+  Set.Definable.mono hAs hAB
+
+theorem empty_definableFun_iff :
+    DefinableFun L (∅ : Set M) f ↔
+    ∃ φ : L.Formula (Option α), tupleGraph f = setOf φ.Realize := by
```
Comment (Vierkantor) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
      ∃ φ : L.Formula (Option α), tupleGraph f = setOf φ.Realize := by
```

File: Mathlib/ModelTheory/Definability.lean [hunk 36]
```diff
@@ -391,6 +437,107 @@ end Language
...
+def DefinableFun (f : (α → M) → M) : Prop :=
+  A.Definable L f.tupleGraph
+
+/-- A family of functions is definable when each coordinate is definable. -/
+def DefinableMap (F : (α → M) → (β → M)) : Prop :=
+  ∀ i : β, DefinableFun L A fun x => F x i
+
+variable {L A} {f : (α → M) → M}
+
+theorem DefinableFun.mono {B : Set M} (hAs : DefinableFun L A f) (hAB : A ⊆ B) :
```
Comment (Vierkantor) [inline Mathlib/ModelTheory/Definability.lean]: Not sure how often we'll be using `grw` on `DefinableFun` but perhaps it turns out to be useful.
```suggestion
@[gcongr]
theorem DefinableFun.mono {B : Set M} (hAs : DefinableFun L A f) (hAB : A ⊆ B) :
```

File: Mathlib/ModelTheory/Definability.lean [hunk 37]
```diff
@@ -391,6 +437,107 @@ end Language
...
+/-- The preimage of a definable set under a definable map is definable. -/
+lemma _root_.Set.Definable.preimage_map
+    {α β : Type*} [Finite β] {F : (α → M) → (β → M)} (hF : DefinableMap L A F)
+    {S : Set (β → M)} (hS : A.Definable L S) :
+    A.Definable L (F ⁻¹' S) := by
+  have h_graph : A.Definable L { w : α ⊕ β → M | ∀ i, F (w ∘ Sum.inl) i = w (Sum.inr i) } := by
+    rw [setOf_forall]
+    exact definable_iInter_of_finite fun i => by
+      simpa [Function.tupleGraph] using
+        (hF i).preimage_comp (fun oa : Option α => oa.elim (Sum.inr i) Sum.inl)
```
Comment (Vierkantor) [inline Mathlib/ModelTheory/Definability.lean]: I'd prefer to reduce the nesting of `by`s here. Also, we can use pattern matching to define the matching rather than resorting to low-level eliminators. (It feels like this might even be an existing function but Loogle didn't give me any results.)
```suggestion
    refine definable_iInter_of_finite fun i => ?_
    simpa [Function.tupleGraph] using
      (hF i).preimage_comp (fun | none => Sum.inr i | some j => Sum.inl j)
```

**Review by Vierkantor — APPROVED** [review]
On the Lean side looks good to me, and with @staroperator's previous right I'm comfortable that the maths is correct (since I last saw this over ten years ago).

bors d+

**Comment by NoneMore** [comment]
@Vierkantor Thanks for the review! For improving automation, I was considering using the `@[fun_prop]` attribute, but I am not sure whether it is appropriate here, or whether there are still some basic lemmas missing, for example `DefinableFun.comp`.

File: Mathlib/ModelTheory/Definability.lean [hunk 38]
```diff
@@ -391,6 +437,109 @@ end Language
...
 end FirstOrder
 
+section
+
+open FirstOrder FirstOrder.Language Set Function
+
+variable {M : Type w} (L : Language) [L.Structure M]
+variable {α β : Type*} (A : Set M)
+
+namespace Function
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]: Since `TermDefinable` is already under `Set` namespace, should `DefinableFun` also be put under `Set` namespace and let `(A : Set M)` be the first argument?

**Comment by staroperator** [comment]
> @Vierkantor Thanks for the review! For improving automation, I was considering using the `@[fun_prop]` attribute, but I am not sure whether it is appropriate here, or whether there are still some basic lemmas missing, for example `DefinableFun.comp`.

`fun_prop` should be appropriate here (though it can't tag some cases related to n-ary functions). For basic lemmas, you can consider adding these:

```lean4
@[fun_prop]
theorem DefinableFun.proj {i : α} : DefinableFun L A fun v => v i := by
  sorry

-- this can't be tagged fun_prop
theorem DefinableMap.comp {γ} [Finite β] [Finite γ] {f : (β → M) → γ → M} {g : (α → M) → β → M}
    (hf : DefinableMap L A f) (hg : DefinableMap L A g) :
    DefinableMap L A fun v => f (g v) :=
  sorry

@[fun_prop]
theorem DefinableFun.comp [Finite α] {g : (β → M) → α → M}
    (hg : DefinableMap L A g) (hf : DefinableFun L A f) :
    DefinableFun L A fun v => f (g v) :=
  sorry

@[fun_prop]
theorem DefinableMap.ite {p : (α → M) → Prop} {f g : (α → M) → β → M} [DecidablePred p]
    (hp : A.Definable L (setOf p)) (hf : DefinableMap L A f) (hg : DefinableMap L A g) :
    DefinableMap L A fun v => if p v then f v else g v := by
  sorry

@[fun_prop]
theorem DefinableFun.ite {p : (α → M) → Prop} {g} [DecidablePred p]
    (hp : A.Definable L (setOf p)) (hf : DefinableFun L A f) (hg : DefinableFun L A g) :
    DefinableFun L A fun v => if p v then f v else g v := by
  sorry
```

**Comment by NoneMore** [comment]
Since I'm not very familiar with `fun_prop`, the case for `DefinableMap` feels a bit subtle to me. Instead of creating a whole set of `@[fun_prop]` lemmas for `DefinableMap`, I think it might be better to unfold it manually and then use `fun_prop` to verify `DefinableFun`.

File: Mathlib/ModelTheory/Definability.lean [hunk 39]
```diff
@@ -391,6 +436,144 @@ end Language
...
+theorem DefinableFun.ite {p : (α → M) → Prop} {g} [DecidablePred p]
+    (hp : A.Definable L (setOf p)) (hf : DefinableFun L A f) (hg : DefinableFun L A g) :
+    DefinableFun L A fun v => if p v then f v else g v := by
+  let P : Set (Option α → M) := {w | p (w ∘ some)}
+  have hP : A.Definable L P := hp.preimage_comp some
+  have : tupleGraph (fun v => if p v then f v else g v) =
+      (P ∩ f.tupleGraph) ∪ (Pᶜ ∩ g.tupleGraph) := by
+    ext w
+    by_cases h : p (w ∘ some) <;> simp [tupleGraph, P, h]
+  simpa [DefinableFun, this] using (hP.inter hf).union (hP.compl.inter hg)
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
  simp only [DefinableFun]
  convert (hP.inter hf).union (hP.compl.inter hg)
  ext w
  by_cases h : p (w ∘ some) <;> simp [tupleGraph, P, h]
```
to avoid an extra assertion

File: Mathlib/ModelTheory/Definability.lean [hunk 40]
```diff
@@ -391,6 +436,144 @@ end Language
...
+
+/-- The set where two definable functions agree is definable. -/
+lemma DefinableFun.setOf_eq {f g : (α → M) → M}
+    (hf : A.DefinableFun L f) (hg : A.DefinableFun L g) :
+    A.Definable L {v : α → M | f v = g v} := by
+  have hF : A.DefinableMap L (fun v => ![f v, g v]) := by
+    simp [DefinableMap]
+    simp_all only [and_self]
```
Comment (staroperator) [inline Mathlib/ModelTheory/Definability.lean]:
```suggestion
    simp [DefinableMap, *]
```
This is shorter

**Review by staroperator — APPROVED** [review]
This PR is pretty good now, thank you very much! These are my final suggestions.

**Comment by NoneMore** [comment]
Thanks for your help all this time!

bors r+
